US05332745
To a solution of sodium (1.84 g, 80 mmol) in ethanol (200 ml) was added phenylacetamidine hydrochloride (16.2 g, 95.0 mmol) and ethyl 4-phenylacetoacetate (15 g, 72.9 mmol). The mixture was heated under reflux with stirring for 5 days followed by cooling and evaporation in vacuo. Water (150 ml) was added to the residue causing a solid to precipitate which was filtered off and washed thoroughly with water and diethyl ether. Recrystallisation of the solid from a chloroform/hexane mixture afforded 6.9 g 2,4-di(phenylmethyl)-6-hydroxypyrimidine as a white solid. m.pt., 158°-160° C., M+ found: 276.

reactant | sodium | 80 mmol, 1.84 g | [Na] | Na
reactant | phenylacetamidine hydrochloride | 95.0 mmol, 16.2 g | Cl.C1(=CC=CC=C1)CC(=N)N
reactant | ethyl 4-phenylacetoacetate | 72.9 mmol, 15 g | C1(=CC=CC=C1)CC(CC(=O)OCC)=O | C12H14O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,4-di(phenylmethyl)-6-hydroxypyrimidine | 6.9 g | C1(=CC=CC=C1)CC1=NC(=CC(=N1)CC1=CC=CC=C1)O | C18H16N2O
